US07250479B2
Methyl magnesium chloride (10 mL, 3M solution in THF) was diluted with THF (10 mL) and the resulting solution warmed to 40° C. Carbon disulfide (2.28 g, 0.03 mol) was added over 10 minutes while maintaining the reaction temperature at 40° C. The reaction was cooled to room temperature before adding ethyl bromoacetate (5.01 g, 0.03 mol) over 15 minutes. The reaction temperature was increased to 50° C. and maintained for a further 4 hours. Water (100 mL) was added and the organic products were extracted with ethyl acetate (3×60 mL). The combined organic extracts were washed with water, brine and dried over anhydrous magnesium sulfate. After removal of solvent and column chromatography (Kieselgel-60, 70-230 mesh, 10% diethyl ether in n-hexane eluent), pure ethoxycarbonylmethyl dithioacetate was obtained as a golden oil (1.3 g, 24.3% yield). 1H-nmr (CDCl3) d(ppm): 1.25 (t, 3H); 2.90 (s, 3H); 4.07 (s, 2H) and 4.20 (q, 2H).

reactant | Methyl magnesium chloride | 3M, 10 mL | C[Mg]Cl
reactant | Carbon disulfide | 0.03 mol, 2.28 g | C(=S)=S | CS2
reactant | ethyl bromoacetate | 0.03 mol, 5.01 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | 100 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethoxycarbonylmethyl dithioacetate | C(C)(=S)SCC(=O)OCC | C6H10O2S2
